US05175157
3-[(N-Benzyl-piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one
17.54 g (0.08 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one are suspended in 150 ml of dimethylsulphoxide and 8.98 g (0.08 mol) of potassium tert.butoxide are added with stirring. After 45 minutes, 21.45 g (0.08 mol) of N-benzyl-3-(bromomethyl)-piperidine dissolved in 50 ml of dimethylsulphoxide are added dropwize to the resulting solution with stirring. After 2 hours the mixture is poured onto ice water. The aqueous phase is extracted three times, each time with 150 ml of ethyl acetate. The combined organic phases are washed with water, dried over magnesium sulphate, concentrated by evaporation in vacuo and purified over 800 g of aluminium oxide (neutral, activity II-III) with methylene chloride and then with increasing amounts of ethanol (up to 3%). Yield: 14.3 g (44% of theory), Rf value: 0.35 (aluminium oxide neutral, eluant: 1% ethanol in methylene chloride).

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.08 mol, 17.54 g | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | potassium tert.butoxide | 0.08 mol, 8.98 g | CC(C)([O-])C.[K+]
reactant | N-benzyl-3-(bromomethyl)-piperidine | 0.08 mol, 21.45 g | C(C1=CC=CC=C1)N1CC(CCC1)CBr | C13H18BrN
solvent | dimethylsulphoxide | 150 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 3-[(N-Benzyl-piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | C(C1=CC=CC=C1)N1CC(CCC1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | C25H30N2O3
